US07723336B2
N6-(trans-4-aminocyclohexyl)-N8-[4-(ethyloxy)phenyl]imidazo[1,2-b]pyridazine-6,8-diamine
To a mixture of crude N6-(4-aminocyclohexyl)-2,3,7-trichloro-N8-(4-ethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine from if as a free base (140 mg, 0.300 mmol) in EtOH (10 ml) in a 500 ml PARR bottle was added 10% Palladium on carbon (175 mg). The PARR bottle was then charged with H2 at 55 psi and allow to shake at room temperature for 24 hours. The catalyst was then filtered and the filtrate was concentrated in vacuo to give a crude mixture of 3 compounds. This mixture was purified by preparative HPLC to give 4.7 mg of Example I(1), N6-(4-aminocyclohexyl)-N8-(4-ethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine as a TFA salt, LC/MS, m/e 367 (M+1). 9.0 mg of N6-(4-aminocyclohexyl)-3-chloro-N8-(4-ethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine, LC/MS, m/e 401 (M+1) and 18.5 mg of N6-(4-aminocyclohexyl)-2,3-dichloro-N8-(4-ethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine, LC/MS, m/e 435 (M+1).

reactant | N6-(4-aminocyclohexyl)-3-chloro-N8-(4-ethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine | 9.0 mg | NC1CCC(CC1)NC=1C=C(C=2N(N1)C(=CN2)Cl)NC2=CC=C(C=C2)OCC | C20H25ClN6O
reactant | N6-(4-aminocyclohexyl)-2,3-dichloro-N8-(4-ethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine | 18.5 mg | NC1CCC(CC1)NC=1C=C(C=2N(N1)C(=C(N2)Cl)Cl)NC2=CC=C(C=C2)OCC | C20H24Cl2N6O
product | N6-(trans-4-aminocyclohexyl)-N8-[4-(ethyloxy)phenyl]imidazo[1,2-b]pyridazine-6,8-diamine | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)OCC | C20H26N6O
